US08389520B2
[4-(Trifluoromethyl)-1H-imidazol-1-yl]acetic acid ethyl ester
2.0 g (14.7 mmol) 4-(trifluoromethyl)-1H-imidazole are initially introduced into 5.5 ml (4.7 g, 14.7 mmol) 21% strength sodium ethylate solution in ethanol and 1.8 ml (2.7 g, 16.2 mmol) ethyl bromoacetate are added. The reaction mixture is stirred at RT for 16 h. For working up, the solid which has precipitated out is filtered off, the residue on the filter is washed with ethanol and the filtrate is concentrated in vacuo. Diisopropyl ether is added to the residue, the mixture is filtered again, the filtrate is concentrated again on a rotary evaporator and the residue is dried in vacuo. The product is obtained as a 9:1 mixture of the two regioisomers and is further reacted as such.

reactant | 4-(trifluoromethyl)-1H-imidazole | 14.7 mmol, 2.0 g | FC(C=1N=CNC1)(F)F | C4H3F3N2
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | ethyl bromoacetate | 16.2 mmol, 1.8 ml, 2.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | C(C)O | C2H6O
product | [4-(Trifluoromethyl)-1H-imidazol-1-yl]acetic acid ethyl ester | C(C)OC(CN1C=NC(=C1)C(F)(F)F)=O | C8H9F3N2O2
